US06559164B1
To a solution of dimethylaminopyridine (1.5 equivalents) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.5 equivalent) in CH2Cl2 was added 4-picolinic acid (1.2 equivalents) and the reaction mixture was stirred a few minutes. 1-Hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione, prepared as in example 1a, was added and the reaction mixture was stirred at room temperature for several hours. The mixture was diluted with dichloromethane, washed with aqueous HCL, saturated NaHCO3, water, dried over MgSO4 and evaporated. The residue was purified by column chromatography to afford isonicotinic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester (yield—76%).

reactant | dimethylaminopyridine | 1.5 equivalents | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.5 equivalent | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-picolinic acid | 1.2 equivalents | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | 1-Hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | OCN1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C23H18N4O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | isonicotinic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | yield—76% | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(C1=CC=NC=C1)=O)=O | C29H21N5O6
